US05574044
1,3-Dihydro-1-{1-[cis-4-(3-pyridinecarbonylamino)cyclohexyl]piperidin-4-yl}-2H-benzimidazol-2-one
A mixture of N-tert-butyloxycarbonyl-4-aminocyclohexanone (1.32 g), 4-(2-keto-1-benzimidazolinyl)piperidine (1.48 g), sodium triacetoxyborohydride (1.97 g), acetic acid (0.35 mL), 1,2-dichloroethane (50 mL) and tetrahydrofuran (60 mL) was stirred at room temperature for 3 days. Saturated aqueous Na2CO3 (30 mL) and H2O (30 mL) were added and the mixture was extracted with dichloromethane (2×100 mL). The combined organic extracts were concentrated to dryness under reduced pressure. Column chromatography on silica gel, eluting with dichloromethane-10% methanol-1% NH4OH gave a mixture of the expected product isomers: 1,3-dihydro-1-{1-[trans-4-(tert-butyloxycarbonylamino)cyclohexyl]piperidin-4-yl}-2H-benzimidazol2-one and 1,3-dihydro-1-{1-[cis-4-(tert-butyloxycarbonylamino)cyclohexyl]piperidin-4-yl}-2H-benzimidazol2-one as a colorless solid (1.9 g).

reactant | N-tert-butyloxycarbonyl-4-aminocyclohexanone | 1.32 g | C(C)(C)(C)OC(=O)NC1CCC(CC1)=O | C11H19NO3
reactant | 4-(2-keto-1-benzimidazolinyl)piperidine | 1.48 g | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | sodium triacetoxyborohydride | 1.97 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Na2CO3 | 30 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | H2O | 30 mL | O | H2O
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 0.35 mL | C(C)(=O)O | C2H4O2
product | 1,3-Dihydro-1-{1-[cis-4-(3-pyridinecarbonylamino)cyclohexyl]piperidin-4-yl}-2H-benzimidazol-2-one | N1=CC(=CC=C1)C(=O)N[C@H]1CC[C@H](CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C24H29N5O2
